US05795887
N-Isopropyl-N-(4-methoxy-phenyl)-2-(2-oxo-5-phenyl-2,3-dihydro-benzo[e][1,4]diazepin-1-yl)-acetamide
By employing conditions similar to those described in Intermediate 11, 5-phenyl-1,3-dihydro-benzo[e][1,4]diazepin-2-one (Bock et. al., J. Org. Chem. 1987, 52, 3232-3239. 3.00 g, 12.71 mmol) and 2-bromo-N-isopropyl-N-(4-methoxy-phenyl)-acetamide (3.820 g, 13.35 mmol) are converted to the title compound, which is obtained as a wet white solid. The product is dissolved in anhydrous DCM, dried over anhydrous sodium sulfate and then concentrated in vacuo. The residue is triturated with n-hexane, filtered and dried overnight under vacuum to provide the title compound as a white solid (5.380 g, 12.18 mmol). 1H NMR (300 MHz, d6-DMSO) δ=0.91-0.97 (m, 6H); 3.70 (d, J=10.4 Hz, 1H); 3.76 (s, 3H); 4.08 (s, 2H); 4.51 (d, J=10.6 Hz, 1H); 4.67-6.78 (m, 1H); 6.97-7.63 (m, 13H). MS (FAB): [M+H]+ =442.

reactant | 5-phenyl-1,3-dihydro-benzo[e][1,4]diazepin-2-one | 12.71 mmol, 3.00 g | C1(=CC=CC=C1)C=1C2=C(NC(CN1)=O)C=CC=C2 | C15H12N2O
reactant | 2-bromo-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 13.35 mmol, 3.820 g | BrCC(=O)N(C1=CC=C(C=C1)OC)C(C)C | C12H16BrNO2
product | N-Isopropyl-N-(4-methoxy-phenyl)-2-(2-oxo-5-phenyl-2,3-dihydro-benzo[e][1,4]diazepin-1-yl)-acetamide | C(C)(C)N(C(CN1C(CN=C(C2=C1C=CC=C2)C2=CC=CC=C2)=O)=O)C2=CC=C(C=C2)OC | C27H27N3O3
